US08076125B2
(i) 2-nitrobenzyl 11-mercaptoundecanoate
One equivalent of 2-nitrobenzyl alcohol (2.17 g, 14.15 mmol) was combined with one equivalent of 11-mercaptoundecanoic acid (3.09 g, 14.15 mmol), 0.1 equivalents DMAP (0.173 g, 1.42 mmol) and dissolved in 50 mL CH2Cl2. To this mixture a solution of DCC (2.92 g, 14.15 mmol) in 30 mL CH2Cl2 was slowly added while stirring. Upon addition a white precipitate formed after a few minutes. The mixture was stirred at room temperature overnight. Vacuum filtration removed the white precipitate and the filtrate was concentrated by rotovap. Silica gel column chromatography was employed for purification using C1H2Cl2/MeOH (v/v 50:1) as the eluent. The product was dried over Na2SO4, the solvent removed by rotovap, and dried under vacuum thus producing a yellow solid. Yield: 3.57 g (71.4%). 1H-NMR (CDCl3) δ (ppm): 8.1 (d, 1H, Ar), 7.6 (t, 1H, Ar), 7.5 (d, 1H, Ar), 7.4 (t, 1H, Ar), 5.5 (s, 2H, O—CH2), 2.6 (t, 1H, SH) 2.5 (q, 2H, CH2—SH), 2.4 (t, 2H, CH2—C═O), 1.6 (m, 4H, CH2), 1.2 (m, 12H, CH2). 13C-NMR (CDCl3) δ (ppm): 173.5, 147.0, 134.1, 132.7, 129.5, 129.2, 125.5, 63.2, 34.6, 34.4, 29.8, 29.7, 29.6, 29.5, 29.4, 28.8, 25.3, 25.1. MS (ESI): (M+Na)+=376.19 (calc. 376.47).

reactant | 2-nitrobenzyl alcohol | 14.15 mmol, 2.17 g, One equivalent | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | 11-mercaptoundecanoic acid | 14.15 mmol, 3.09 g, one equivalent | SCCCCCCCCCCC(=O)O | C11H22O2S
reactant | DCC | 14.15 mmol, 2.92 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1.42 mmol, 0.173 g, 0.1 equivalents | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-nitrobenzyl 11-mercaptoundecanoate | SCCCCCCCCCCC(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C18H27NO4S
